US06521606B2
(αR)-Methyl 2-(4-methoxyphenyl)-2-oxo-α-phenylmethyl-1,3,2-oxazaphosphorinane-3-acetate (diastereomer 2, compound 247).
Starting materials: 4-Methoxyphenylphosphonic dichloride and N-(3-hydroxypropyl)-D-phenylalanine methyl ester.

reactant | 4-Methoxyphenylphosphonic dichloride | COC1=CC=C(C=C1)P(=O)(Cl)Cl | C7H7Cl2O2P
reactant | N-(3-hydroxypropyl)-D-phenylalanine methyl ester | COC([C@H](NCCCO)CC1=CC=CC=C1)=O | C13H19NO3
product | (αR)-Methyl 2-(4-methoxyphenyl)-2-oxo-α-phenylmethyl-1,3,2-oxazaphosphorinane-3-acetate | COC1=CC=C(C=C1)P1(OCCCN1[C@@H](C(=O)OC)CC1=CC=CC=C1)=O | C20H24NO5P
